US04298529
Ethyl 2-methoxyimino-3,3-diethoxybutyrate (syn isomer, 10.0 g), pyridinium hydrobromide perbromide (15.5 g) and tetrahydrofuran (100 ml) were treated in a similar manner to that of Example 8 (2) to give ethyl 2-methoxyimino-3,3-diethoxy-4-bromobutyrate (syn isomer, 16.20 g).

reactant | Ethyl 2-methoxyimino-3,3-diethoxybutyrate | 10.0 g | CON=C(C(=O)OCC)C(C)(OCC)OCC | C11H21NO5
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 2-methoxyimino-3,3-diethoxy-4-bromobutyrate | 16.20 g | CON=C(C(=O)OCC)C(CBr)(OCC)OCC | C11H20BrNO5
